Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Coffee Ground Emesis, nausea
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
Mr. ___ is a ___ year old man with
history of HIV on HAART, hypertension, HLD and recent right
rotator cuff repair 1 day prior to admission (___)
presenting with nausea, vomiting and coffee ground emesis. 

Surgery for right rotator cuff on ___. Right arm numb post
procedure then pain started on ___. On ___ night, took
ibuprofen and percocet and then again on ___. Later in the 
day
of ___, started having hiccups, dry heaves and ultimately
having significant brown liquid emesis with his nausea. Emesis
described as brown with some residue. 

Stopped ibuprofen 10 days prior to the operation. Had been on
tramadol previously. No recent percocet prior to operation. 

No prior history of GI bleeds. No dizziness, no fevers or 
chills,
no cp or heart palpitations. No diarrhea, no SOB. 

In terms of his medications, no other recent medication changes.

The patient presented to ___ for evaluation given above
symptoms and was reportedly noted to have an episode of coffee
ground emesis. Due to lack of ICU beds and drop in hgb from 12 
to
11.2, decision awas made to transfer to ___. On arrival to ___
ED, patient was HD stable and repeat hgb stable. He was admitted
to the floor and described the above recorded story. He notes he
is hungry without other complaints. 
 

 
Past Medical History:
HIV 
Chronic low back pain
Hypertension
Hyperlipidemia
 
Social History:
___
Family History:
Noncontributory to current presentation
 
Physical Exam:
Admission exam:
==================
VITALS: 98.2 PO 111 / 73 L Lying ___ RA 
GENERAL: Well appearing, in NAD
EYES: Anicteric, EOMI, no significant pallor
ENT: MM dry
CV: RRR, no murmurs appreciated
RESP: CTAB, good air movement
GI: Normoactive BS, soft, nontender, nondistended, rectal exam
without stool in vault. 
GU: No suprapubic ttp
MSK: Right arm with tape over right wound and in sling, mild ttp
over shoulder, fingers warm. Moving all other extremities
SKIN: Warm, well perfused, no rashes noted
NEURO: Oriented to place and time, grossly intact
PSYCH: Somewhat flat affect

Discharge exam:
===============
97.6 PO 125 / 83 92 18 96 RA 
General: well appearing, comfortable in NAD
MMM, OP clear
CV: RRR, no murmurs
Lungs CTAB with good air movement
GI: soft, nontender, nondistended
Right arm in sling, good ROM with fingers
No edema
 
Pertinent Results:
Admission Labs:
================
___ 05:30AM BLOOD WBC-12.7* RBC-3.20* Hgb-11.3* Hct-33.7* 
MCV-105* MCH-35.3* MCHC-33.5 RDW-14.1 RDWSD-54.4* Plt ___
___ 05:30AM BLOOD Neuts-68.7 ___ Monos-10.1 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-8.72* AbsLymp-2.57 
AbsMono-1.28* AbsEos-0.03* AbsBaso-0.02
___ 05:30AM BLOOD ___ PTT-24.5* ___
___ 05:30AM BLOOD Glucose-86 UreaN-49* Creat-0.8 Na-141 
K-4.9 Cl-105 HCO3-24 AnGap-12
___ 05:30AM BLOOD ALT-37 AST-25 AlkPhos-61 TotBili-0.6
___ 05:30AM BLOOD Lipase-14
___ 07:45AM BLOOD Calcium-8.6 Phos-3.3 Mg-2.1
___ 05:30AM BLOOD Albumin-4.1
___ 05:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:42AM BLOOD Lactate-1.2

Discharge labs:
================
___ 07:45AM BLOOD WBC-6.7 RBC-2.89* Hgb-10.2* Hct-31.2* 
MCV-108* MCH-35.3* MCHC-32.7 RDW-14.2 RDWSD-55.8* Plt ___

Imaging:
==========
EGD ___: 
Grade B esophagitis in distal esophagus
normal mucosa in stomach 
erythema in the duodenal bulb compatible with duodenitis
Large hiatal hernia seen with small 1mm nonbleeding superficial 
erosion
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with history of HIV on HAART, 
hypertension, HLD and recent right rotator cuff repair 1 day 
prior to admission (___) presenting with nausea, vomiting 
and concern for coffee ground emesis. 

ACUTE/ACTIVE PROBLEMS:
# Nausea, coffee ground emesis
# Anemia
Patient presented with nausea and vomiting with report of brown 
emesis and
coffee grounds at ___ concerning for UGIB. He has risk 
factors for ulcers including heavy EtOH use and recent ibuprofen 
use though not much ibuprofen recently. Alternative etiologies 
for bleeding included esophageal tear from retching. He was 
initiated on a IV PPI BID and GI was consulted and performed an 
EGD on ___ which showed esophagitis and duodenal bulb 
duodenitis without gastritis. Mr. ___ hemoglobin was stable 
at around 10 prior to discharge without further evidence of 
bleeding. He was started on a omeprazole 40mg daily for 8 weeks. 
Biopsies taken from the esophagus on EGD pending at time of 
discharge. The patient was instructed to follow-up for repeat 
CBC by ___ with his PCP. 

# Right rotator cuff repair: Done ___ at ___. Healing 
well. Right arm maintained in sling. He was non-weight bearing 
of the right arm. Pain managed with tramadol and Tylenol while 
inpatient. NSAIDs stopped. He was restarted on prn Percocet at 
discharge. 

#EtOH use: Patient with heave EtOH use at baseline though with 
no history of withdrawal. Last drink the night prior to 
admission. He was maintained on CIWA without evidence of 
withdrawal this admission. 

CHRONIC/STABLE PROBLEMS:
#Hypertension: Normotensive this admission. Lisinopril held on 
admission due to GI bleeding. Instructed patient to restart on 
___ after discharge given normotension prior to discharge. 

#Hyperlipidemia: Continued atorvastatin.

#HIV: Per patient, well controlled without history of 
opportunistic infections. Last CD4 count unknown. He was 
continued on home biktarvy qhs.

#Testosterone deficiency: Home testosterone injections held 
inpatient. 

Transitional issues:
====================
[ ]f/u biopsies from esophagus ___
[ ]Please repeat CBC by ___ to ensure stability
[ ]Please continue to encourage patient to abstain from alcohol 
and tobacco

[x]>30 minutes spent on discharge planning and care coordination 
on day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
2. OxyCODONE--Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN Pain 
- Moderate 
3. Atorvastatin 10 mg PO QPM 
4. Biktarvy (bictegrav-emtricit-tenofov ala) 50-200-25 mg oral 
QHS 
5. Lisinopril 10 mg PO DAILY 
6. Testosterone Cypionate 100 mg IM Q2WEEKS 

 
Discharge Medications:
1.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth Daily Disp #*30 
Capsule Refills:*1 
2.  Atorvastatin 10 mg PO QPM  
3.  Biktarvy (bictegrav-emtricit-tenofov ala) 50-200-25 mg oral 
QHS  
4.  OxyCODONE--Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN Pain 
- Moderate  
5.  Testosterone Cypionate 100 mg IM Q2WEEKS  
6. HELD- Lisinopril 10 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute GI bleed
Esophagitis
Duodenitis
EtOH abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with vomiting and 
gastrointestinal bleeding. You underwent an endoscopy which did 
not show any ulcers but did show evidence of esophagitis and 
duodenitis (inflammation in the esophagus and duodenum). 
Biopsies were taken. You will be called with the results of 
these biopsies. 

You were started on a medication to treat the acid in your 
stomach and should continue taking this medication for the next 
two months (through ___. 

It is very important that you stop taking ibuprofen and other 
NSAIDS (motrin, aspirin). Additionally, we strongly recommend 
that you stop drinking alcohol and smoking cigarettes as these 
can worsen the inflammation. 

MEDICATION CHANGES:
STOP ibuprofen
START omeprazole

Please continue to follow the post-operative instructions from 
your surgeon related to your recent rotator cuff surgery.

It was a pleasure taking care of you!
Your ___ Care Team
 
Followup Instructions:
___